US04224330
A mixture of 2-(2-benzothienyl)-3-methylbutanoic acid (1 g, 4.3 mmol), 3-phenoxybenzyl bromide (1.1 g, 4.3 mmol) and K2CO3 (8.6 mmol) in 25 ml of THF/HMPA (1:1) is stirred overnight. The reaction is worked up by diluting with ether, washing with water, drying over Na2SO4, and solvent removed to yield 3-phenoxybenzyl 2-(2benzothienyl)-3-methylbutanoate which can be further purified by preparing thin layer chromatography eluting with 5 percent ether/hexane.

reactant | 2-(2-benzothienyl)-3-methylbutanoic acid | 4.3 mmol, 1 g | S1C(=CC2=C1C=CC=C2)C(C(=O)O)C(C)C | C13H14O2S
reactant | 3-phenoxybenzyl bromide | 4.3 mmol, 1.1 g | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
reactant | K2CO3 | 8.6 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | THF HMPA | 25 ml | C1CCOC1.CN(C)P(=O)(N(C)C)N(C)C
solvent | ether | CCOCC | C4H10O
product | 3-phenoxybenzyl 2-(2benzothienyl)-3-methylbutanoate | S1C(=CC2=C1C=CC=C2)C(C(=O)OCC2=CC(=CC=C2)OC2=CC=CC=C2)C(C)C | C26H24O3S
